US09315489B2
Stage 13.1 3-Iodo-4-methyl-N-(4-(trifluoromethoxy)phenyl)benzamide
DIPEA (4.00 mL, 22.90 mmol) was added to a solution of 3-iodo-4-methylbenzoic acid (2 g, 7.63 mmol) and 2-(6-chloro-1H-benzotriazole-1-yl)-1,1,3,3-tetramethylaminium hexafluorophosphate (HCTU, 3.47 g, 8.40 mmol) in THF (18 mL) and NMP (2 mL) and the RM was stirred at RT for 30 min. 4-(Trifluoromethoxy)aniline (1.536 mL, 11.45 mmol) was then added and the RM was stirred at RT for 14 h. The solvent was evaporated off under reduced pressure and the residue was treated with aq. 1M HCl (50 mL) and extracted with TBME. The combined extracts were washed with aq. 1 M HCl (50 mL), aq. sat. Na2CO3, water, brine, dried over MgSO4 and the solvent was evaporated off under reduced pressure to give a residue which was crystallized from n-heptane/EtOAc to afford the title compound as white needles. UPLC-MS (Condition 1) tR=3.42 min, m/z=421.9-422.9 [M+H]+, m/z=419.9-420.9 [M−H]−; 1H-NMR (400 MHz, DMSO-d6) δ ppm 2.44 (s, 3H) 7.36 (d, J=8.3 Hz, 2H) 7.49 (d, J=8.3 Hz, 1H) 7.83-7.93 (m, 3H) 8.39 (d, J=2.0 Hz, 1H) 10.42 (s, 1H).

reactant | DIPEA | 22.90 mmol, 4.00 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-iodo-4-methylbenzoic acid | 7.63 mmol, 2 g | IC=1C=C(C(=O)O)C=CC1C | C8H7IO2
reactant | 2-(6-chloro-1H-benzotriazole-1-yl)-1,1,3,3-tetramethylaminium hexafluorophosphate | 8.40 mmol, 3.47 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC(=C2)Cl)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-(Trifluoromethoxy)aniline | 11.45 mmol, 1.536 mL | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
solvent | THF | 18 mL | C1CCOC1 | C4H8O
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | 3-Iodo-4-methyl-N-(4-(trifluoromethoxy)phenyl)benzamide | IC=1C=C(C(=O)NC2=CC=C(C=C2)OC(F)(F)F)C=CC1C | C15H11F3INO2
